US03996229
103 G. of 8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-ol, 500 ml. of benzene and 38.4 g. of finely powdered calcium chloride are saturated with hydrogen chloride gas at 15° C. and stirred overnight. The precipitate is removed by filtration, washed with benzene, evaporated under reduced pressure, and there is obtained 10-chloro-8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]-thiepin which melts at 63°-64° C.

reactant | 8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-ol | FC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)O)C1 | C15H13FOS
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 10-chloro-8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]-thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)F)C=CC(=C2)C | C15H12ClFS
